Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Acute renal failure
 
Major Surgical or Invasive Procedure:
Urinary catheter placement

 
History of Present Illness:
___ M w/ hx of BPH (no TURP) followed by urology (Dr. ___ 
who 1 week ago first noticed mild pressure-like pain in his L 
testicle and left flank. This pain got progressively worse over 
the week evolving into a more burning quality that involved his 
L testicle, inguinal region, and up to his L flank. It was at 
its worst on ___ when he experienced N/V, chills, and felt 
feverish. In addition, over the past week he has not had a BM or 
passed much gas, and noticed more difficulty than his basline 
urination which involved decreased stream strength, less volume, 
but no burning or blood upon urination. Over the last 3 weeks he 
has also been leaking some urine at night which is new for him. 
Due to these sx he saw Dr. ___ on ___ and bladder scan 
revealed 1000cc urine retained (baseline for him 500-700cc) and 
he was straight cath'd which caused him some pain and mild blood 
in urine thereafter, chemistry lab was sent. On ___ night 
Dr. ___ the pt for his elevated Cr and asked him to 
go to the ER.  

In the ED, initial VS were: 97.9, 81, 146/84, 20, 100RA, pt was 
given 1 tab vicodin, x3 4mg morphine, x2 lidocaine urojet jelly  

Gross hematuria and blood clots seen after ___ foley placed and 
pt noted burning. A ___ larger catheter placed with more clot. 
Finally, 3 way foley placed by urology and received CBI. CT 
ABD/PEL done.  

Review of sytems:  
(+) Per HPI and 13 pound unintentional wt loss (pt attributes to 
recent job change). Decreased appetite over past month or 2.  
(-) Denies night sweats, bone pain, back pain, recent illness, 
cough, chest pain, SOB,  

 
Past Medical History:
Gout  
kidney stones  
HTN  
BNPH - last PSA believes with Dr. ___ on ___  
sinusitis  

 
Social History:
___
Family History:
No prostate, renal, or bladder cancer 
 
Physical Exam:
Vitals: T: 97.8, BP: 148/79, P: 64, R: 18 O2: 100% on RA  
General: Alert, oriented, NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, ronchi  
CV: RRR, normal S1 + S2, ___ systolic flow murmur at LUSB w/o 
radiation.  
Abdomen: distended, tense, non-tender, BS+, no rebound 
tenderness or guarding, no organomegaly. No CVAT, no back pain 
to palpation.  
GU: ___ 3-way with pink colored urine w/o clots. Circumsized, ___ 
testicular tenderness L > R w/o masses  
Ext: WWP, 2+ pulses, no clubbing, cyanosis or edema  
Neuro: sensation and muscular strength grossly intact on ___  

 
Pertinent Results:
___ 10:40PM BLOOD WBC-7.6 RBC-3.36* Hgb-10.2*# Hct-29.6*# 
MCV-88 MCH-30.3 MCHC-34.4 RDW-13.2 Plt ___
___ 06:30AM BLOOD Hct-28.7*
___ 10:40PM BLOOD Glucose-97 UreaN-59* Creat-4.3*# Na-136 
K-4.0 Cl-101 HCO3-23 AnGap-16
___ 06:30AM BLOOD Glucose-90 UreaN-40* Creat-3.2* Na-138 
K-4.8 Cl-104 HCO3-25 AnGap-14
___ 06:30AM BLOOD Calcium-8.7 Phos-4.3 Mg-2.0
___ 10:25PM URINE Blood-LG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 10:25PM URINE ___ Bacteri-RARE 
Yeast-NONE ___

CT ABD/PELVIS ___:
INDICATION: ___ year old man with history of BPH, presenting with 
left flank pain and new onset renal failure. 
COMPARISON: None.  
TECHNIQUE: MDCT-acquired images were obtained through the 
abdomen and pelvis without oral or IV contrast. IV contrast was 
not administered due to acute renal failure. 
CT ABDOMEN: The lung bases are clear without effusion, 
consolidation or nodule. The heart size is normal. There is no 
pericardial effusion.  
On this non-contrast enhanced examination the liver, spleen, 
adrenals, 
pancreas and gallbladder are unremarkable. There is marked 
bilateral 
hydroureteronephrosis without evidence of obstructing lesion. 
The abdominal loops of large and small bowel are unremarkable 
without evidence of pneumatosis, free air or obstruction. There 
is no mesenteric or 
retroperitoneal lymphadenopathy.   
CT PELVIS: Marked bladder dilation measures up to 11 x 10.7 x 16 
cm. The 
bladder wall is thickened to 7 mm with focal areas of 
trabeulation noted. The prostate is enlarged to 5.3 x 5 cm and 
contains several scattered 
calcifications. The seminal vesicles and rectum are 
unremarkable. Small 
bilateral fat containing inguinal hernias are noted. 
Bone windows demonstrate no lesions concerning for metastasis or 
infection. 
IMPRESSION: Marked bilateral hydroureteronephrosis and bladder 
distention/wall thickening is secondary to chronic obstruction 
from prostate hypertrophy. 

 
Brief Hospital Course:
___ year old man with a long standing BPH (prostate hyperplasia) 
who presented with obstructive uropathy, acute renal failure, 
and severe constipation or ileus. He had an abdominal CT which 
showed marked bilateral hydroureteronephrosis and bladder 
distention with wall thickening secondary to chronic obstruction 
from prostate 
hypertrophy. His initial creatinine was 4.3 and his BUN was 59. 
The urology service placed a 3-way Foley with continuous 
irrigation because of gross hematuria and clot obstruction. The 
CT abdomen ruled out small bowel obstruction related to hernia, 
as he has history of right inguinal hernia with 2 surgical 
repairs. The reason for ileus was unclear but it was attributed 
to the severe bilateral hydroureteronephrosis and bladder 
distention. The was no bowel distention or obstruction on the 
CT. His creatinine improved with treatment using ___ NS at a 
rate of 75 ML/HOUR. His Hgb/HcT remained stable despite the 
hematuria. The patient needs out patient surgical management of 
his BPH. He has a close follow up with Urology. His ileus needs 
to be followed up as well as he has complained of appetite and 
weight loss prior to his presentations. Of note, he had previous 
normal colonoscopy. The patient left with the foley catheter in 
place with irrigation port capped.  

Discharge diagnosis:
Acute renal failure
Acute blood loss anemia
Obstructive uropathy
Benign prostatic hypertrophy
Ileus
 
Medications on Admission:
Lisinopril-HCTZ ___ tab daily  
avodart 0.5mg caps 1qd  
flomax 0.4mg cap qday  
MVI  

 
Discharge Medications:
1. Avodart 0.5 mg Capsule Sig: One (1) Capsule PO daily ().  
2. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
3. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain: DO NOT EXCEED 8 pills in 
24 hours.  .
Disp:*60 Tablet(s)* Refills:*0*
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
6. Senna 8.6 mg Capsule Sig: One (1) Capsule PO once a day.  
7. Outpatient Lab Work
BMP/CBC this week, Dr. ___ to get results.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute renal failure
Obstructive uropathy
Benign Prostatic Hypertrophy
Acute blood loss anemia

Secondary diagnoses:
Gout
Hypertension

 
Discharge Condition:
Vital signs and electrolytes stable.  Ambulating independently, 
tolerating PO.  Foley catheter in place. Creatinine 3.0, Hct 28.
 
Discharge Instructions:
You were admitted with kidney failure due to your enlarged 
prostate.  You had a catheter placed and received continuous 
bladder irrigation.  You were given hydration to help you 
recover from your kidney failure. Your kidney function is still 
impaired and may take some time to improve. As we discussed it 
is possible that you may be left with some residual kidney 
damage.  Please adhere to the renal diet recommended with low 
potassium and low phosphorus.  Also follow a high fiber diet.
Please follow up with Dr. ___ as per below as well as Dr. 
___.  We also suggest that you see a nephrologist (kidney 
specialist) in the future for ongoing monitoring of your kidney 
function.  You are being discharged with a urinary cathether in 
place.  Please follow instructions from the urology team 
regarding care of this.

Take all medications as prescribed.  The following changes were 
made to your home medications
-your lisinopril-hydrochlorathiazide were held due to your 
kidney failure, please discuss with a nephrologist or Dr. ___ 
___ restarting this.

You should avoid all non-steroidal antiinflammatory medications 
such as motrin, ibuprofen, naproxen, indocin.  Please discuss 
changing the dose of allopurinol with your doctor.

Do not drive while taking narcotic medications, including 
vicodin.  Minimize vicodin use as it will make your constipation 
worse.

Call your doctor or return to the emergency room if you 
experience significant urinary clots, worsening pain, fevers, 
chills or for any other concerning symptoms. 
 
Followup Instructions:
___